US04489089
A mixture of 10.0 g. of N-[4-(1H-imidazol-1-yl)-butyl]isoindole-1,3(2H)-dione, 1.97 ml. of hydrazine hydrate and 100 ml. of ethanol was heated at reflux for 3 hours and then cooled. A 160 ml. of portion of 3N hydrochloric acid was added, the mixture was heated at reflux for one hour and then concentrated. The residue was stirred with 150 ml. of 3N hydrochloric acid and then filtered. The mother liquor was concentrated to dryness, diluted with 10 ml. of ethanol and cooled, giving 1H-imidazole-1-butanamine dihydrochloride (m.p. 132°-146° C.) which was recovered by filtration.

reactant | N-[4-(1H-imidazol-1-yl)-butyl]isoindole-1,3(2H)-dione | N1(C=NC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C15H15N3O2
reactant | hydrazine hydrate | O.NN
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1H-imidazole-1-butanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCCN | InChI=1S/C7H13N3.2ClH/c8-3-1-2-5-10-6-4-9-7-10;;/h4,6-7H,1-3,5,8H2;2*1H
